US06919337B2
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide (20.6 ml, 0.11 mol) is added to a mixture of 5,6-diamino-1-isobutyl-3-methyl-1H-pyrimidine-2,4-dione (20 g, 0.094 mol), (5,6-dimethoxy-isoquinolin4-yl)-acetic acid (26.7 g, 0.094 mol), and 1-hydroxybenzotriazole (19.2 g, 0.142 mol) in 1:1 dichloromethane-water (400 ml). The reaction is stirred at ambient temperature for 4.5 hours and the resultant solid collected by filtration. Slurrying in water (500 ml), filtration and washing with water (250 ml) followed by drying, further tritruation with methanol and drying gives an intermediate together with slightly less pure material from concentration of the methanol triturate. The intermediate (16.08 g) is dissolved in water (100 ml) and methanol (100 ml) followed by the addition of 4M aqueous sodium hydroxide (56 ml) and the resultant solution is heated at 70° C. over night. After cooling to ambient temperature, the methanol is evaporated and the residue acidified to pH 1 with concentrated hydrochloric acid. The resultant hydrochloride salt is collected by filtration and dried. The product is then be converted to the free base by treatment with aqueous sodium hydroxide to pH 11 and washing with water to afford 3-isobutyl-8-(5,6-dimethoxy-isoquinolin4-ylmethyl)-1-methyl-3,7-dihydro-purine-2,6-dione [MH]+ 424.6.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide | 0.11 mol, 20.6 ml | CN(CCCN=C=NCC)C | C8H17N3
reactant | 5,6-diamino-1-isobutyl-3-methyl-1H-pyrimidine-2,4-dione | 0.094 mol, 20 g | NC=1C(N(C(N(C1N)CC(C)C)=O)C)=O | C9H16N4O2
reactant | (5,6-dimethoxy-isoquinolin4-yl)-acetic acid | 0.094 mol, 26.7 g | COC1=C2C(=CN=CC2=CC=C1OC)CC(=O)O | C13H13NO4
reactant | 1-hydroxybenzotriazole | 0.142 mol, 19.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane water | 400 ml | ClCCl.O
product | 3-isobutyl-8-(5,6-dimethoxy-isoquinolin4-ylmethyl)-1-methyl-3,7-dihydro-purine-2,6-dione | C(C(C)C)N1C(N(C(C=2NC(=NC12)CC1=CN=CC2=CC=C(C(=C12)OC)OC)=O)C)=O | C22H25N5O4
